US04870187
3,3-Bis(4-fluorophenyl)-1-bromo-2-(1H-tetrazol-1-yl)-2-propene
A solution of 3,3-bis(4-fluorophenyl)-2-(tetrazol-1-yl)-2-propenol (108 mg, 0.34 mmol), triphenylphosphine (118 mg, 0.45 mmol) and N-bromosuccinimide (74 mg, 0.42 mmol) in tetrahydrofuran (5 mL) was stirred in an inert atmosphere for a period of 1.5 hours. The suspension (triphenylphosphine oxide precipitate) was diluted with hexanes (25 mL) and the suspension was filtered. The filtrate was concentrated under reduced pressure and the semi-crystalline solid was filtered through a short silica gel column eluted with 5-10% ethyl acetate in hexanes. The title compound, 108 mg (84%), was obtained after removal of solvents under reduced pressure.

reactant | 3,3-bis(4-fluorophenyl)-2-(tetrazol-1-yl)-2-propenol | 0.34 mmol, 108 mg | FC1=CC=C(C=C1)C(=C(CO)N1N=NN=C1)C1=CC=C(C=C1)F | C16H12F2N4O
reactant | triphenylphosphine | 0.45 mmol, 118 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.42 mmol, 74 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3,3-Bis(4-fluorophenyl)-1-bromo-2-(1H-tetrazol-1-yl)-2-propene | FC1=CC=C(C=C1)C(=C(CBr)N1N=NN=C1)C1=CC=C(C=C1)F | C16H11BrF2N4
